US04228168
860 mg of sodium were added to 18 ml of tertiary amylalcohol-absolute toluene (1:1), and the mixture was refluxed for 5 hours. Then, the reaction mixture was condensed to dryness, whereby sodium tertiary amyloxide was obtained. 20 ml of absolute toluene and 1.09 g of 1,2,3,4-tetrahydro-1-(3-methoxycarbonylpropyl)-2-benzyl-β-carboline were added to said sodium tertiary amyloxide under ice-cooling, and the mixture was stirred at the same temperature for 3 hours. After the reaction was completed, ethyl acetate was added to the reaction mixture. Said mixture was washed with an aqueous saturated sodium chloride solution, dried and then condensed. The residue thus obtained was purified by silica gel chromatography (Solvent: chloroform), and then recrystallized from a mixture of methanol and isopropyl ether, whereby 300 mg of 1,2,3,3a,4,5,6,7-octahydro-3-benzyl-7-oxo-azepino[1,2,3-lm]-β-carboline were obtained. Yield: 30.3%

reactant | sodium | 860 mg | [Na] | Na
reactant | tertiary amylalcohol | 18 ml | C(C)(C)(CC)O | C5H12O
product | sodium tertiary amyloxide | C(C)(C)(CC)OC(C)(C)CC.[Na] | InChI=1S/C10H22O.Na/c1-7-9(3,4)11-10(5,6)8-2;/h7-8H2,1-6H3;
